US08058285B2
5 ml (13.3 mmol) acetonic benzoyl-isothiocyanate solution (2 M) is added to 2.78 g (8.9 mmol) 3-amino-4-methyl-6-phenyl-thieno[2,3-b]pyridine-2-carboxylic acid ethyl ester in 10 ml acetone and refluxed for 2 h. The precipitate precipitated after cooling is sucked off, washed with some water and ethanol, suck dried and dried in vacuo at 50° C. 3.93 g (93%) 3-(3-benzoylthioureido)-4-methyl-6-phenyl-thieno[2,3-b]pyridine-2-carboxylic acid ethyl ester is obtained.

reactant | benzoyl-isothiocyanate | 13.3 mmol, 2 M, 5 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 3-amino-4-methyl-6-phenyl-thieno[2,3-b]pyridine-2-carboxylic acid ethyl ester | 8.9 mmol, 2.78 g | C(C)OC(=O)C1=C(C=2C(=NC(=CC2C)C2=CC=CC=C2)S1)N | C17H16N2O2S
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(3-benzoylthioureido)-4-methyl-6-phenyl-thieno[2,3-b]pyridine-2-carboxylic acid ethyl ester | 3.93 g, 93% | C(C)OC(=O)C1=C(C=2C(=NC(=CC2C)C2=CC=CC=C2)S1)NC(=S)NC(C1=CC=CC=C1)=O | C25H21N3O3S2
